US08138197B2
Methyl 3,5-diethoxy-4-(isoxazol-4-yl)benzoate
Methyl 4-bromo-3,5-diethoxybenzoate (456 mg) and 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-isoxazole (438 mg) were dissolved in THF in a nitrogen atmosphere, and potassium phosphate (954 mg), palladium acetate (33 mg) and dicyclohexyl-(2′,6′-dimethoxy-biphenyl-2-yl)-phosphane (62 mg) were added to it, and degassed. The reaction liquid was stirred overnight at 85° C., then cooled to room temperature, water was added to it, and filtered through Celite. The filtrate was extracted with chloroform, washed with saturated saline water, and the organic layer was dried with sodium sulfate. Sodium sulfate was removed through filtration, the filtrate was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (hexanelethyl acetate=100/0 to 80/20) to obtain the title compound as a pale yellow solid.

reactant | Methyl 4-bromo-3,5-diethoxybenzoate | 456 mg | BrC1=C(C=C(C(=O)OC)C=C1OCC)OCC | C12H15BrO4
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-isoxazole | 438 mg | CC1(OB(OC1(C)C)C=1C=NOC1)C | C9H14BNO3
reactant | potassium phosphate | 954 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dicyclohexyl-(2′,6′-dimethoxy-biphenyl-2-yl)-phosphane | 62 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium acetate | 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | Methyl 3,5-diethoxy-4-(isoxazol-4-yl)benzoate | C(C)OC=1C=C(C(=O)OC)C=C(C1C=1C=NOC1)OCC | C15H17NO5
